US07479493B2
N-[2-(Cyclopropyl-methyl-amino)-ethyl]-4-dimethylaminomethyl-3-(pyridin-3-yloxy)-benzamide
To a solution of 4-dimethylaminomethyl-N-(2-methylamino-ethyl)-3-(pyridin-3-yloxy)-benzamide (0.090 g, 0.274 mmol) in a 1:1 mixture of THF:MeOH (4 mL) was added [(1-ethoxycyclopropyl)-oxy]trimethylsilane (0.28 mL, 1.37 mmol), AcOH (0.08 mL, 1.37 mmol), and NaCNBH3 (0.088 g, 1.37 mmol). The reaction mixture was heated to 50° C. for 24 h, cooled to rt and concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (15 mL), washed with sat. NaHCO3 (5 mL), dried (Na2SO4), and concentrated. HPLC purification under basic conditions yielded the desired product (0.036 g, 38%). MS (ESI): m/z found, 369.2 [M+H]+.

reactant | 4-dimethylaminomethyl-N-(2-methylamino-ethyl)-3-(pyridin-3-yloxy)-benzamide | 0.274 mmol, 0.090 g | CN(C)CC1=C(C=C(C(=O)NCCNC)C=C1)OC=1C=NC=CC1 | C18H24N4O2
reactant | [(1-ethoxycyclopropyl)-oxy]trimethylsilane | 1.37 mmol, 0.28 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | AcOH | 1.37 mmol, 0.08 mL | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 1.37 mmol, 0.088 g | [BH3-]C#N.[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-(Cyclopropyl-methyl-amino)-ethyl]-4-dimethylaminomethyl-3-(pyridin-3-yloxy)-benzamide | 0.036 g, 38% | C1(CC1)N(CCNC(C1=CC(=C(C=C1)CN(C)C)OC=1C=NC=CC1)=O)C | C21H28N4O2
